
***************************************************

.subckt Binary_memristor plus minus RM PARAMS:
+X0=-2 R0=1000 R1=100 a1=10 a2=5 Vf=1.2 Vr=-1.2

*.params X0=-2,R0=1000, R1=100

.func dx(V,X)=IF(V>Vf,1/EXP(X-a1),IF(V>Vr,0,-1/EXP(-X-a2)))
.func Rm(x)=IF(X<0,R0,R1)
.func Gm(V,X)=V/Rm(X)
.func Gr(x)=Rm(x)

Cx XSV 0 {1}
.ic V(XSV)=X0

*high-valued resistance for preventing convergence problems
*Rad XSV 0 10G

**************************************************** Resistance read node**********************************

R_m RM 0 {1}
gr 0 RM value={Gr(V(XSV,0))}

**************************************************************************************************************

Gx 0 XSV value={dx(V(plus,minus),V(XSV,0))}
Gm plus minus value={Gm(V(plus,minus),V(XSV,0))}

.ends Binary_memristor
